US09278951B2
Synthesis of 1,3-bis(pyren-2-ylmethyl)-4,5-dichloroimidazolium bromide
4,5-Dichloroimidazole (0.18 g, 1.33 mmol) and potassium hydroxide (0.08 g, 1.46 mmol) will be dissolved in a minimum volume of acetonitrile and stirred at reflux for 30 min. 2-(Bromomethyl)pyrene (2.95 g, 10.0 mmol) will be added and the mixture will be returned to reflux for 3 h. The mixture will be filtered hot to remove the KBr generated. A second equivalent of 2-(bromomethyl)pyrene will be added to the filtrate and the mixture will be returned to reflux for 6 h. The volatile components will be removed under reduced pressure to yield the product.

reactant | 4,5-Dichloroimidazole | 1.33 mmol, 0.18 g | ClC=1N=CNC1Cl | C3H2Cl2N2
reactant | potassium hydroxide | 1.46 mmol, 0.08 g | [OH-].[K+]
reactant | 2-(Bromomethyl)pyrene | 10.0 mmol, 2.95 g | BrCC1=CC2=CC=C3C=CC=C4C=CC(=C1)C2=C43 | C17H11Br
solvent | acetonitrile | C(C)#N | C2H3N
product | 1,3-bis(pyren-2-ylmethyl)-4,5-dichloroimidazolium bromide | [Br-].C1=C(C=C2C=CC3=CC=CC4=CC=C1C2=C34)C[N+]3=CN(C(=C3Cl)Cl)CC3=CC4=CC=C2C=CC=C1C=CC(=C3)C4=C12 | InChI=1S/C37H23Cl2N2.BrH/c38-36-37(39)41(20-23-17-30-13-9-26-5-2-6-27-10-14-31(18-23)35(30)33(26)27)21-40(36)19-22-15-28-11-7-24-3-1-4-25-8-12-29(16-22)34(28)32(24)25;/h1-18,21H,19-20H2;1H/q+1;/p-1
